US05700945
Potassium hydroxide (10.6 g) was added to a suspension of 6.82 g of cysteamine hydrochloride and 10.0 g of 4-chloromethyl-2-hydroxymethylthiazolehydrochloride in 100 ml isopropanol. The resulting suspension was stirred at room temperature for 2 hours and filtered through a pad of celite to remove insoluble inorganics and concentrated under reduced pressure. The residue was taken up in dichloromethane and filtered through a pad of celite and concentrated under reduced pressure. The oil (12.54 g) represents a quantitative yield of 4-[[(2-aminoethyl)thio]methyl]-2-hydroxy-methylthiazole contaminated only with inorganic salts.

reactant | Potassium hydroxide | 10.6 g | [OH-].[K+]
reactant | cysteamine hydrochloride | 6.82 g | Cl.NCCS
reactant | 4-chloromethyl-2-hydroxymethylthiazolehydrochloride | 10.0 g | Cl.ClCC=1N=C(SC1)CO
reactant | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | 4-[[(2-aminoethyl)thio]methyl]-2-hydroxy-methylthiazole | quantitative yield | NCCSCC=1N=C(SC1C)O | C7H12N2OS2
